************************************************************************
* auCdl Netlist:
* 
* Library Name:  lab2
* Top Cell Name: INVERTER
* View Name:     schematic
* Netlisted on:  Nov  9 01:31:02 2025
************************************************************************

.INCLUDE  /CMC/kits/cmosp18.6.13a_ic6/tsmc18/../Calibre/lvs/source.added
*.EQUATION
*.LDD
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: lab2
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER IN OUT VDD VSS
*.PININFO IN:I OUT:O VDD:B VSS:B
MM0 OUT IN VSS VSS N l=180e-9 w=1e-6 m=1
MM1 OUT IN VDD VDD P l=180e-9 w=4e-6 m=1
.ENDS

